US06046195
(6S,5R)-7-(tert-Butoxycarbonyl)-3-keto-6-phenyl-7-aza-1-oxa-spiro[4.5]decane
Through a cooled (-80° C.) solution of (6S,5R)-7-(tert-butoxycarbonyl)-3-methylene-6-phenyl-7-aza-1-oxa-spiro[4.5]decane (0.665 g; Desc.3) in dichloromethane (5 ml) and methanol (5 ml) was bubbled a mixture of ozone and oxygen for 0.75 hours. After the solution had been purged with nitrogen, dimethyl sulphide (0.5 ml) was added and then stirred under nitrogen at room temperature for 16 hours. The solvent was removed in vacuo and the residue partitioned between ethyl acetate and water. The organic phase was dried (MgSO4), evaporated and the residue purified by chromatography on silica gel elutintg with hexane containing increasing proportions of ethyl acetate between 0% to 10%. Evaporation of the fractions gave the title compound. MS (ES+) m/z 332 (M+H), 232 (M+2H-tBuOCO--), 276 (M+2H-tBu). 1H NMR (250 MHz, CDCl3) δ 7.58 (2H, d, J 6.2 Hz), 7.37-7.26 (3H, m), 5.3 (1H, s), 4.15 and 4.09 (2H, AB d, J 17.4 Hz), 3.97 (1H, m), 2.80 (1H, td, J 12.9 Hz and 4.0 Hz), 2.74 and 2.48 (2H, ABd, J 18.1 Hz), 2.29 (2H, m), 1.88-1.63 (2H, m), 1.44 (9H, s).

reactant | (6S,5R)-7-(tert-butoxycarbonyl)-3-methylene-6-phenyl-7-aza-1-oxa-spiro[4.5]decane | 0.665 g | C(C)(C)(C)OC(=O)N1[C@H]([C@]2(CC(CO2)=C)CCC1)C1=CC=CC=C1 | C20H27NO3
reactant | methanol | 5 ml | CO | CH4O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (6S,5R)-7-(tert-Butoxycarbonyl)-3-keto-6-phenyl-7-aza-1-oxa-spiro[4.5]decane | C(C)(C)(C)OC(=O)N1[C@H]([C@]2(CC(CO2)=O)CCC1)C1=CC=CC=C1 | C19H25NO4
